US07674801B2
N-Ethyl-N′-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]urea
To a solution of 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (1 g, 4.5 mmol) in chloroform (5 mL), ethyl isocyanate (0.33 mL, 4.5 mmol) was added. The resulting mixture was microwaved at 110° C. for one hour and concentrated to give 1 g of product (white solid). MS (ESP): 292 (M+H+) for C14H22BN3O3; NMR (CDCl3): 1.22 (t, 3H), 1.32 (s, 2H), 3.41 (m, 2H), 6.82 (d, 1H), 7.90 (dd, 1H), 8.52 (s, 1H), 8.62 (s, 1H), 9.40 (s, 1H).

reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 4.5 mmol, 1 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | ethyl isocyanate | 4.5 mmol, 0.33 mL | C(C)N=C=O | C3H5NO
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | N-Ethyl-N′-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]urea | 1 g | C(C)NC(=O)NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H22BN3O3
